US07241887B2
1,7,8,9-Tetrachloro-10,10-dimethoxy-3,5-dioxa-tricyclo[5.2.1.02,6]dec-8-en-4-one
In a 500 mL 3N RB flask equipped with a water condenser, N2 flow adapter and thermometer, was placed 5,5-dimethoxy-1,2,3,4-tetrachlorocyclopentadiene (20.7 g, 0.078 mol) and vinylene carbonate (6.7 g, 0.078 mol). The mixture was heated to 90° C. for 4 h, then at 60° C. for 63 h. The reaction was judged complete by TLC and upon cooling, the product solidified, was recrystallized from THF and filtered to provide a white solid (25.80 g, 94%). (TLC 20% EtOAc/hexanes Rf 0.29); 1H NMR (400 MHz, CDCl3) δ 5.13 (s, 2H), 3.59 (s, 3H), 3.56 (s, 3H); GCMS m/z 348 (M)+; mp 160–162° C.; Anal. Calcd. for C10H8Cl4O5: C, 34.32; H, 2.30. Found C, 34.32; H, 2.27.

reactant | 5,5-dimethoxy-1,2,3,4-tetrachlorocyclopentadiene | 0.078 mol, 20.7 g | COC1(C(=C(C(=C1Cl)Cl)Cl)Cl)OC | C7H6Cl4O2
reactant | vinylene carbonate | 0.078 mol, 6.7 g | C1(OC=CO1)=O | C3H2O3
product | 1,7,8,9-Tetrachloro-10,10-dimethoxy-3,5-dioxa-tricyclo[5.2.1.02,6]dec-8-en-4-one | 25.80 g, 94% | ClC12C3OC(OC3C(C(=C1Cl)Cl)(C2(OC)OC)Cl)=O | C10H8Cl4O5
